US07230098B2
To a solution of 3-(2,6-Dichloro-benzyloxy)-5-(1H-indol-5-yl)-pyridin-2-ylamine (example I-58, 200 mg, 0.52 mmol) in acetic acid (4 mL) and trifluoroacetic-acid (1 mL) was added 1-methyl-4-piperidone (0.32 mL, 2.6 mmol). The solution was refluxing for over night, and evaporated. The residue was dissolved in ethyl acetate, washed with saturated NaHCO3 and brine, dried over Na2SO4, and condensed. The crude product was purified on a silica gel column eluting with dichloromethane-methanol-triethyl amine (95:5:0.1) to provide 3-(2,6-dichloro-benzyloxy)-5-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indol-5-yl]-pyridin-2-ylamine (103.5 mg, 41% yield) as an orange crystalline solid.

reactant | 3-(2,6-Dichloro-benzyloxy)-5-(1H-indol-5-yl)-pyridin-2-ylamine | ClC1=C(COC=2C(=NC=C(C2)C=2C=C3C=CNC3=CC2)N)C(=CC=C1)Cl | C20H15Cl2N3O
reactant | trifluoroacetic-acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-methyl-4-piperidone | 2.6 mmol, 0.32 mL | CN1CCC(CC1)=O | C6H11NO
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-(2,6-dichloro-benzyloxy)-5-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indol-5-yl]-pyridin-2-ylamine | 103.5 mg, 41% yield | ClC1=C(COC=2C(=NC=C(C2)C=2C=C3C(=CNC3=CC2)C=2CCN(CC2)C)N)C(=CC=C1)Cl | C26H24Cl2N4O
